US08580799B2
To a stirred solution of N-hydroxy-1-(4-methyl-1,2,5-thiadiazol-3-yl)-1-phenylmethanimine (24.3 g, 111 mmol) in dry acetonitrile (600 mL) were added 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (36.9 g, 116 mmol), cesium carbonate (37.9 g, 116 mmol) and potassium iodide (1.84 g, 11 mmol). The reaction mixture was stirred at room temperature for 14 h, then diluted with water (200 mL) and concentrated in vacuo. The residue was extracted with ethyl acetate (2×300 mL). The combined organic layers were combined and concentrated in vacuo to afford 2-{6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione as a red oil [49 g, yield 82%; HPLC/MS: m/z=456 (M+H); log P(HCOOH)=3.99].

reactant | N-hydroxy-1-(4-methyl-1,2,5-thiadiazol-3-yl)-1-phenylmethanimine | 111 mmol, 24.3 g | ON=C(C1=CC=CC=C1)C1=NSN=C1C | C10H9N3OS
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 116 mmol, 36.9 g | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | cesium carbonate | 116 mmol, 37.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 11 mmol, 1.84 g | [I-].[K+]
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
solvent | water | 200 mL | O | H2O
product | 2-{6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | yield 82% | CC=1C(=NSN1)\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C24H17N5O3S
